US09353107B2
Step-ii: tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate
Using similar reaction conditions as described in step-ii of example-82, tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (190 mg, 0.264 mmol) was reduced with palladium hydroxide (100 mg) in ethyl acetate/ethanol 10/20 mL to afford 141 mg (74% yield) of the titled compound. MS: m/z=720.7 (M+1).

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.264 mmol, 190 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)C2=CCN(CC2)C(=O)OC(C)(C)C | C41H40FN5O4S
solvent | 1-(3-nitrobenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [N+](=O)([O-])C=1C=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=CC1 | C16H20BN3O4
catalyst | palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl 4-(2-fluoro-4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidine-1-carboxylate | 141 mg, 74% yield | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CCC2=CC=CC=C2)S(=O)(=O)C2=CC=C(C)C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C41H42FN5O4S
